US07176242B2
Step 4: Methyl 1-butyl-1H-indazole-6-carboxylate
To a mixture of methyl 1H-indazole-6-carboxylate (0.95 g) in DMF (10 mL) was added 60% NaH (0.216 g). The mixture was heated to 60° C. and 1-iodobutane (0.61 mL) was added. The mixture was heated at 60° C. for 72 h and 1-iodobutane (0.61 mL) was added every 24 h. The mixture was removed from heat and cooled to room temperature and partitioned between water and ethyl acetate. The layers were separated and the organic layer washed three times with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Column chromatography on silica gel (100 mL) using 5% ethyl acetate in hexanes as eluent to give 0.356 g of the title compound: 1H NMR (CDCl3) δ 0.938, 1.34, 1.92, 3.97, 4.43, 7.73, 7.79, 8.03, 8.18.

reactant | methyl 1H-indazole-6-carboxylate | 0.95 g | N1N=CC2=CC=C(C=C12)C(=O)OC | C9H8N2O2
reactant | NaH | 0.216 g | [H-].[Na+]
reactant | 1-iodobutane | 0.61 mL | ICCCC | C4H9I
reactant | 1-iodobutane | 0.61 mL | ICCCC | C4H9I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 1-butyl-1H-indazole-6-carboxylate | 0.356 g | C(CCC)N1N=CC2=CC=C(C=C12)C(=O)OC | C13H16N2O2
